US07947676B2
1-{2-[(4-{[3-methoxy-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}piperidin-4-ol
The procedure described in Example 55 was repeated using 2-[(4-{[3-methoxy-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl methanesulfonate and 4-hydroxypiperidine to give the title compound in 54% yield; NMR Spectrum: 1.36 (d, 2H), 1.69 (d, 2H), 2.18 (t, 2H), 2.78 (m, 4H), 3.81 (s, 3H), 4.41 (t, 2H), 4.53 (d, 1H), 5.16 (s, 2H), 7.03 (d, 1H), 7.23 (dd, 1H), 7.37 (m, 2H), 7.54 (d, 1H), 7.85 (td, 1H), 8.26 (s, 1H), 8.30 (s, 1H), 8.58 (d, 1H); Mass Spectrum: 492 (MH+).

reactant | 2-[(4-{[3-methoxy-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=NNC2=NC=NC(=C21)NC2=CC(=C(C=C2)OCC2=NC=CC=C2)OC | C21H22N6O6S
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 1-{2-[(4-{[3-methoxy-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]ethyl}piperidin-4-ol | 54% yield | COC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCN2CCC(CC2)O | C25H29N7O4
